US09145413B2
Pyridine (1.60 mL, 19.8 mmol) was added dropwise to an ice cold suspension of triphosgene (2.94 g, 9.90 mmol) in DCM (20.0 mL). (S)-3-Methylmorpholine (1.00 mL, 9.90 mmol) was added and the reaction stirred for 3 hours, then quenched by dropwise addition of HCl (1M aqueous, 20 mL). The mixture was extracted into DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give (S)-3-methylmorpholine-carbamoylchloride (1.25 g, 77%). The product was used in the next reaction without purification. (S)-3-Methylmorpholine-carbamoylchloride (766 mg, 4.33 mmol) was dissolved in DCM (35.0 mL) and DIPEA (1.03 mL, 5390 mmol) was added followed by (5-fluoro-pyridin-2-yl)-hydrazine (WO2010022076, 500 mg, 3.94 mmol) and the reaction heated to 45° C. overnight. The reaction was cooled and quenched into water. The mixture was extracted into DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC using 0-10% [2M NH3 in MeOH] in DCM to give the title compound (574 mg, 57%). 1H NMR (300 MHz, CDCl3): 1.36 (3H, d, J=6.9 Hz), 3.30 (1H, td, J=12.5, 3.9 Hz), 3.47-3.74 (4H, m), 3.89-4.03 (2H, m), 6.41 (1H, br s), 6.45 (1H, br s), 6.73 (1H, dd, J=9.0, 3.5 Hz), 7.29 (1H, ddd, J=9.0, 7.9, 2.9 Hz), 8.04 (1H, d, J=2.9 Hz).

reactant | Pyridine | 19.8 mmol, 1.60 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 9.90 mmol, 2.94 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (S)-3-Methylmorpholine | 9.90 mmol, 1.00 mL | C[C@@H]1NCCOC1 | C5H11NO
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-methylmorpholine carbamoylchloride | 1.25 g, 77% | C[C@@H]1NCCOC1.C(N)(=O)Cl | InChI=1S/C5H11NO.CH2ClNO/c1-5-4-7-3-2-6-5;2-1(3)4/h5-6H,2-4H2,1H3;(H2,3,4)/t5-;/m0./s1
